US07576108B2
d: (E)-2-(4-Methanesulfonyl-phenyl)-6-methyl-hept-2-en-1-ol
Reduction of (E)-2-(4-methanesulfonyl-phenyl)-6-methyl-hept-2-enoic acid ethyl ester (320 mg, 1.09 mmol) with DIBAL in toluene (1.98 mL, 2.4 mmol) following the method of example 54e gives the title compound as an amorphous solid (275 mg). MS (m/e): 283 (M+H).

reactant | (E)-2-(4-methanesulfonyl-phenyl)-6-methyl-hept-2-enoic acid ethyl ester | 1.09 mmol, 320 mg | C(C)OC(\C(=C\CCC(C)C)\C1=CC=C(C=C1)S(=O)(=O)C)=O | C17H24O4S
reactant | DIBAL | CC(C)C[AlH]CC(C)C
reactant | toluene | 2.4 mmol, 1.98 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-2-(4-Methanesulfonyl-phenyl)-6-methyl-hept-2-en-1-ol | 275 mg | CS(=O)(=O)C1=CC=C(C=C1)/C(/CO)=C\CCC(C)C | C15H22O3S
